US04367234
5-(3-Chloro-6-methoxy-2-methylphenyl)-oxazolidine-2,4-dione
By the procedure of Example 27, 1-(3-chloro-6-methoxy-2-methylphenyl)-1-hydroxymethanecarboximidate hydrochloride (1.0 g., 3.4 mmoles) in 50 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(3-chloro-6-methoxy-2-methylphenyl)oxazolidine-2,4-dione (470 mg. 54%; m.p. 193°-195° C.).

reactant | 1-(3-chloro-6-methoxy-2-methylphenyl)-1-hydroxymethanecarboximidate hydrochloride | 3.4 mmoles, 1.0 g | Cl.ClC=1C(=C(C(=CC1)OC)C(C(O)=N)O)C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Chloro-6-methoxy-2-methylphenyl)-oxazolidine-2,4-dione | ClC=1C(=C(C(=CC1)OC)C1C(NC(O1)=O)=O)C | C11H10ClNO4
